US06964966B2
Ammonium acetate (33 g) was added to the stirred solution of 1-carbethoxy-3-ethyl-4-piperidinone (8.2 g, 41 mmol) in methanol (125 ml) and stirring was continued for 3 hr at ambient temperature. The resulting mixture was cooled at 0° C. and sodium cyanoborohydride (2.5 g, 39 mmol) was added to it. Cooling was removed after 10 min. and resulting mixture was stirred for 6 hr at ambient temperature. The reaction mixture was concentrated to dryness, triturated with water, acidified with conc. HCl (pH 3˜4) and extracted with ethyl acetate to remove impurities. The aqueous layer was basified with 1 M sodium hydroxide solution (pH˜10) and extracted with ethyl acetate. Ethyl acetate extract was dried (Na2SO4) and concentrated to dryness to furnish crude 4-amino-1-carbethoxy-3-ethylpiperidine, which was used as such in the next step.

reactant | Ammonium acetate | 33 g | C(C)(=O)[O-].[NH4+]
reactant | 1-carbethoxy-3-ethyl-4-piperidinone | 41 mmol, 8.2 g | C(=O)(OCC)N1CC(C(CC1)=O)CC | C10H17NO3
reactant | sodium cyanoborohydride | 39 mmol, 2.5 g | C(#N)[BH3-].[Na+]
solvent | methanol | 125 ml | CO | CH4O
product | 4-amino-1-carbethoxy-3-ethylpiperidine | NC1C(CN(CC1)C(=O)OCC)CC | C10H20N2O2
